US07776857B2
A mixture of 1-chloro-4-phenylphthalazine (0.082 g, 0.34 mmol) and 4-((7-methoxyquinolin-4-yl)methyl)benzenamine (0.090 g, 0.34 mmol) in tBuOH (2.5 mL) was heated to 105° C. in a resealable tube. After 3 hrs, the mixture was cooled to RT, diluted with CH2Cl2 and washed with saturated NaHCO3 and brine. The organic fraction was dried with Na2SO4, concentrated in vacuo, and purified by silica gel chromatography using 50-100% Hexanes:EtOAc to afford N-(4-((7-methoxyquinolin-4-yl)methyl)phenyl)-4-phenylphthalazin-1-amine as a light yellow solid. MH+=469.2@1.47 min

reactant | 1-chloro-4-phenylphthalazine | 0.34 mmol, 0.082 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | 4-((7-methoxyquinolin-4-yl)methyl)benzenamine | 0.34 mmol, 0.090 g | COC1=CC=C2C(=CC=NC2=C1)CC1=CC=C(C=C1)N | C17H16N2O
solvent | tBuOH | 2.5 mL | CC(C)(C)O | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-((7-methoxyquinolin-4-yl)methyl)phenyl)-4-phenylphthalazin-1-amine | COC1=CC=C2C(=CC=NC2=C1)CC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C31H24N4O
